US06432993B1
(3-2) 5-{4-[6-(4-Hydroxyphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl}thiazolidine-2,4-dione
Using 1.49 g of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxyphenoxy)phenyl}-N-methylcarbamate and 10 ml of a 4N hydrochloric acid/dioxane solution, reaction and purification were carried out in a similar manner to that described in Example (2-2a), whereby 0.26 g of the title compound were obtained.

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxyphenoxy)phenyl}-N-methylcarbamate | 1.49 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)O)N(C(OC(C)(C)C)=O)C)C=C1 | C30H31N3O8S
reactant | hydrochloric acid dioxane | 4N | Cl.O1CCOCC1
product | 5-{4-[6-(4-Hydroxyphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 0.26 g | OC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | C25H21N3O5S
